US05578627
To a solution of 0.4 g of 5-chloro-3-(2-tert-butoxycarbonylamino-3-methylthiocarbamoyloxypropoxy)-1,2-benzoisoxazole in 10 ml of methanol is added 5 ml of a dioxane solution (3.2N) of hydrogen chloride at room temperature, and they are subjected to reaction at the same temperature for three hours, after which the solvent is removed by distillation under reduced pressure. To the residue obtained is added 3 ml of 2-propanol, and the crystals precipitated are collected by filtration, to obtain 0.22 g of pale yellow, crystalline 3-(2-amino-3-methylthiocarbamoyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 198.8°-199.2° C. (decomp.).

reactant | 5-chloro-3-(2-tert-butoxycarbonylamino-3-methylthiocarbamoyloxypropoxy)-1,2-benzoisoxazole | 0.4 g | ClC=1C=CC2=C(C(=NO2)OCC(COC(NC)=S)NC(=O)OC(C)(C)C)C1 | C17H22ClN3O5S
reactant | dioxane | 3.2N, 5 ml | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
reactant | 2-propanol | 3 ml | CC(C)O | C3H8O
solvent | methanol | 10 ml | CO | CH4O
product | 3-(2-amino-3-methylthiocarbamoyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)COC(NC)=S | InChI=1S/C12H14ClN3O3S.ClH/c1-15-12(20)18-6-8(14)5-17-11-9-4-7(13)2-3-10(9)19-16-11;/h2-4,8H,5-6,14H2,1H3,(H,15,20);1H
